US04996225
(b) 1,2-diphenyl-1-[4-[2-(N-methylamino)ethoxy]phenyl]-1-buten-4-ol (Z)
42.3 g of (Z)-1,2-diphenyl-1-[4-(2-bromoethoxy)phenyl]-1-buten-4-ol is stirred over 500 ml of 33% methylamine in ethanol for 10 h at 100° C. in autoclave. The solvent is evaporated and the evaporation residue is dissolved in ethyl acetate in the presence of 2 M sodium carbonate solution. After washing the ethyl acetate layer with water and drying with sodium sulfate the solvent is evaporated. Recrystallization from toluene gives 27.2 g (73%) of the product having m.p. 134°-9° C.

reactant | (Z)-1,2-diphenyl-1-[4-(2-bromoethoxy)phenyl]-1-buten-4-ol | 42.3 g | C1(=CC=CC=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)OCCBr | C24H23BrO2
reactant | methylamine | 500 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 1,2-diphenyl-1-[4-[2-(N-methylamino)ethoxy]phenyl]-1-buten-4-ol | 27.2 g, 73% | C1(=CC=CC=C1)C(=C(CCO)C1=CC=CC=C1)C1=CC=C(C=C1)OCCNC | C25H27NO2
